US05560814
Preparation of 2-(1-carboxypropyl)thiouronium bromide
Example 1 was repeated with thiourea and 2-bromobutyric acid, affording the title compound in a yield of 79%.

reactant | thiourea | NC(=S)N | CH4N2S
reactant | 2-bromobutyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 2-(1-carboxypropyl)thiouronium bromide | yield of 79% | [Br-].C(=O)(O)C(CC)SC(=[NH2+])N | InChI=1S/C5H10N2O2S.BrH/c1-2-3(4(8)9)10-5(6)7;/h3H,2H2,1H3,(H3,6,7)(H,8,9);1H
